US07452886B2
7-Cyclohexyl-6-[4-(4-methyl-piperazin-1-yl)-benzyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
A mixture of 6-(4-chloro-benzyl)-7-cyclohexyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (1.5 mmol), 1-methylpiperazine (1.8 mmol), cesium carbonate (1.4 mmol), 2-(di-t-butylphosphino)-biphenyl (0.3 mmol) and palladium (II) acetate in toluene (6 ml) is stirred at 100° C. for 3 h. After the reaction mixture is quenched with saturated ammonium chloride, the mixture is extracted with AcOEt. The organic layer is washed with brine, dried over magnesium sulfate and evaporated down. The crude product is applied to a silica gel column chromatography, which is eluted with following solvents: 2% MeOH in CH2Cl2 and 3% MeOH in CH2Cl2. The solvent of the latter effluent is removed by evaporation and dried in vacuo to afford the title compound. yield 40.0%,

reactant | 6-(4-chloro-benzyl)-7-cyclohexyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 1.5 mmol | ClC1=CC=C(CC2=CC3=C(N=C(N=C3)C#N)N2C2CCCCC2)C=C1 | C20H19ClN4
reactant | 1-methylpiperazine | 1.8 mmol | CN1CCNCC1 | C5H12N2
reactant | cesium carbonate | 1.4 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(di-t-butylphosphino)-biphenyl | 0.3 mmol | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Cyclohexyl-6-[4-(4-methyl-piperazin-1-yl)-benzyl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | yield 40.0% | C1(CCCCC1)N1C(=CC2=C1N=C(N=C2)C#N)CC2=CC=C(C=C2)N2CCN(CC2)C | C25H30N6
